US04206145
4-Aminobenzoic acid (13.7 g., 0.1 mole) and 4-chlorobenzaldehyde (14.05 g., 0.1 mole) were mixed in dry benzene (200 ml.), 4-toluenesulphonic acid (50 mg.) was added and the mixture was boiled under reflux in an apparatus incorporating a water-trap until the theoretical amount of water (1.8 ml) had been collected. The reaction mixture was cooled in iced water, the product filtered, dried and hydrogenated at NTP in ethanol (500 ml) in the presence of platinum oxide, (Adams catalyst), (100 mg). The catalyst was filtered off and the solution added to iced water. The product was filtered, dried and crystallised from 20% aqueous ethanol to give 4[(4-chlorobenzyl)-amino]-benzoic acid (17.32 g., 78%) which melted at 206°-8° C.

reactant | 4-Aminobenzoic acid | 0.1 mole, 13.7 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | 4-chlorobenzaldehyde | 0.1 mole, 14.05 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | water | 1.8 ml | O | H2O
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
catalyst | 4-toluenesulphonic acid | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 4[(4-chlorobenzyl)-amino]-benzoic acid | 17.32 g, 78% | ClC1=CC=C(CNC2=CC=C(C(=O)O)C=C2)C=C1 | C14H12ClNO2
